US07371749B2
1-(2-Methoxy-ethyl)-1H-pyrazole-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide
Using 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine and 1-(2-methoxy-ethyl)-1H-pyrazole-4-carboxylic acid phenyl ester, the title compound was obtained as light yellow crystals 43% yield). MS: m/e=418(M+H+), mp 191-193° C.

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | 1-(2-methoxy-ethyl)-1H-pyrazole-4-carboxylic acid phenyl ester | C1(=CC=CC=C1)OC(=O)C=1C=NN(C1)CCOC | C13H14N2O3
product | 1-(2-Methoxy-ethyl)-1H-pyrazole-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2C=NN(C2)CCOC)N2CCOCC2 | C19H23N5O4S
